US08357374B2
Preparation of 2,5-dioxopyrrolidin-1-yl 4-[6-amino-8-hydroxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoate
4-[6-amino-8-methoxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoate (2 mmol) is dissolved in dichloromethane or dioxane (10 mL) and EDC (2 mmol) is added. To this solution is added N-hydroxysuccinimide (2 mmol) and resulting mixture is stirred at room temperature for 1 hour. The mixture is taken to dryness in vacuo and the crude product is purified by silica gel chromatography to yield 2 mmol of product that is suitable for conjugation reactions involving primary amines.

reactant | 4-[6-amino-8-methoxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoate | 2 mmol | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(C(=O)[O-])C=C1)OC
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | EDC | 2 mmol
reactant | N-hydroxysuccinimide | 2 mmol | ON1C(CCC1=O)=O | C4H5NO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,5-dioxopyrrolidin-1-yl 4-[6-amino-8-hydroxy-2-(2-methoxyethoxy)purin-9-ylmethyl]benzoate | 2 mmol | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(C(=O)ON2C(CCC2=O)=O)C=C1)O | C20H20N6O7
